US08198269B2
(3) Synthesis of (4aR,6R,8aS)-6-benzyloxymethyl-8a-(5-bromo-2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-aza-naphthalen-2-ylamine
[(2R,4R,5S)-5-Amino-2-benzyloxymethyl-5-(5-bromo-2-fluorophenyl)tetrahydropyran-4-yl]methanol (2.22 g) was dissolved in dichloromethane (30 ml), and benzoyl isothiocyanate (776 μl) was added. The mixture was stirred at room temperature for five hours, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain an intermediate. The resulting intermediate was dissolved in methanol (50 ml), and concentrated hydrochloric acid (2 ml) was added. The mixture was heated under reflux for six hours and then cooled to room temperature. The solvent was evaporated under reduced pressure. Methanol (30 ml) and DBU (2 ml) were added to the residue, followed by heating under reflux for three hours. The reaction solution was cooled to room temperature, and the solvent was evaporated under reduced pressure. The residue was purified by NH-silica gel column chromatography to obtain the title compound (2.30 g).

reactant | [(2R,4R,5S)-5-Amino-2-benzyloxymethyl-5-(5-bromo-2-fluorophenyl)tetrahydropyran-4-yl]methanol | 2.22 g | N[C@@]1([C@@H](C[C@@H](OC1)COCC1=CC=CC=C1)CO)C1=C(C=CC(=C1)Br)F | C20H23BrFNO3
reactant | benzoyl isothiocyanate | 776 μl | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
product | (4aR,6R,8aS)-6-benzyloxymethyl-8a-(5-bromo-2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-aza-naphthalen-2-ylamine | 2.30 g | C(C1=CC=CC=C1)OC[C@H]1C[C@H]2CSC(=N[C@]2(CO1)C1=C(C=CC(=C1)Br)F)N | C21H22BrFN2O2S
